US06875765B2
Potassium tert-butoxide (4.28 g, 38.2 mmol) was added to a solution of benzyl alcohol (3.29 mL, 31.8 mmol) in 66 mL anhydrous THF. The mixture was stirred at room temperature for 20 minutes. 2-Chloro-6-methoxy-3-nitropyridine (5.00 g, 26.5 mmol) was added and the reaction was stirred at vigorous reflux for 18 h. TLC analysis (silica, 1:1 CH2Cl2-hexanes) indicated no unreacted starting material. The reaction mix was diluted with 200 mL H2O and 20 mL 10% aqueous NaOH. The dilution was extracted with ethyl acetate (75 mL) and then with CH2Cl2 (50 mL). The organic extractions were combined, washed with brine (100 mL), dried over Na2SO4, filtered through celite, and concentrated. The crude product was purified by flash chromatography (SiO2, 1:1.5 CH2Cl2-hexanes) to give 3.41 g (13.1 mmol, 49%) of 2-benzyloxy-6-methoxy-3 nitro-pyridine. MS (APCI) m/z 261.1 (M+1).

reactant | Potassium tert-butoxide | 38.2 mmol, 4.28 g | CC(C)([O-])C.[K+]
reactant | benzyl alcohol | 31.8 mmol, 3.29 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | 2-Chloro-6-methoxy-3-nitropyridine | 26.5 mmol, 5.00 g | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
solvent | THF | 66 mL | C1CCOC1 | C4H8O
solvent | H2O | 200 mL | O | H2O
solvent | NaOH | 20 mL | [OH-].[Na+]
product | 2-benzyloxy-6-methoxy-3 nitro-pyridine | 13.1 mmol, 3.41 g, 49% | C(C1=CC=CC=C1)OC1=NC(=CC=C1[N+](=O)[O-])OC | C13H12N2O4
